US08470947B2
After sodium hydride dispersed in mineral oil (0.80 g, 33.47 mmol as sodium hydride) was washed with hexane to remove the mineral oil under nitrogen atmosphere, tetrahydrofuran (38 mL) was added. The temperature of the mixture was elevated to 50° C. and aniline (0.21 g, 2.23 mmol) was added. The mixture was stirred at 50° C. for 1 hour. To the resultant mixture, a solution obtained by dissolving 1,2,3,4-tetramethylcyclopenta-1,3-diene (3.00 g, 24.55 mmol) in tetrahydrofuran (10 mL) was added dropwise and stirred at 50° C. for 2 hours. The solution was cooled to 0° C. To the solution, a solution obtained by dissolving chloro(n-butyl)methylphenyl silane (4.75 g, 22.32 mmol) in toluene (10 mL) was added dropwise and stirred at 35° C. for 2 hours. The resultant mixture was added dropwise to a mixed solution of a 10% sodium hydrogen carbonate solution (24 mL) and a 10% sodium carbonate solution (24 mL) at 0° C. Toluene (24 mL) was added to separate an organic phase. The organic phase was washed with water (40 nit) and further washed with a saturated brine (20 mL). The organic phase was dried over sodium sulfate and then filtrated. The solvent was concentrated under reduced pressure to obtain 1-n-butylmethylphenylsilyl-2,3,4,5-tetramethylcyclopentadiene (5.16 g, yield 77.4%).

reactant | 1,2,3,4-tetramethylcyclopenta-1,3-diene | 24.55 mmol, 3.00 g | CC1=C(C(=C(C1)C)C)C | C9H14
reactant | chloro(n-butyl)methylphenyl silane | 22.32 mmol, 4.75 g | Cl[Si](C1=CC=CC=C1)(C)CCCC | C11H17ClSi
reactant | sodium hydrogen carbonate | 24 mL | C(O)([O-])=O.[Na+]
reactant | sodium carbonate | 24 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | Toluene | 24 mL | C1(=CC=CC=C1)C | C7H8
product | 1-n-butylmethylphenylsilyl-2,3,4,5-tetramethylcyclopentadiene | 5.16 g, yield 77.4% | C(CCC)CC1=C(C(=C(C1(C)[SiH2]C1=CC=CC=C1)C)C)C | C20H30Si
